US09447117B2
(1S,4R)-2-((R)-1-phenylethyl)-2-azabicyclo[2.2.1]hept-5-ene
Intermediate B-1 was prepared according to the procedure of C. Chiu et al. [Synthetic Communications 1996, 26, 577-584] with the substitution of (+)-α-Methyl-benzylamine for (−)-α-Methyl-benzylamine and D-dibenzoyl tartaric acid for L-dibenzoyl tartaric acid. MS (ESI) mass calcd. for C14H17N, 199.1. m/z found 200.1 [M+H]+. 1H NMR (400 MHz, Chloroform-d) δ 7.36-7.25 (m, 4H), 7.23-7.17 (m, 1H), 6.35-6.30 (m, 1H), 6.11 (dd, J=5.7, 2.0 Hz, 1H), 4.16-4.12 (m, 1H), 3.05 (q, J=6.5 Hz, 1H), 2.89 (dd, J=8.9, 3.1 Hz, 1H), 2.85-2.81 (m, 1H), 1.65-1.59 (m, 1H), 1.48-1.43 (m, 1H), 1.37-1.31 (m, 4H).

reactant | (−)-α-Methyl-benzylamine | CC(C1=CC=CC=C1)N | C8H11N
reactant | D-dibenzoyl tartaric acid | C1=CC=C(C=C1)C(=O)O[C@@H]([C@@H](C(=O)O)OC(=O)C2=CC=CC=C2)C(=O)O | C18H14O8
reactant | L-dibenzoyl tartaric acid | C1=CC=C(C=C1)C(=O)O[C@H]([C@H](C(=O)O)OC(=O)C2=CC=CC=C2)C(=O)O | C18H14O8
product | (1S,4R)-2-((R)-1-phenylethyl)-2-azabicyclo[2.2.1]hept-5-ene | C1(=CC=CC=C1)[C@@H](C)N1[C@@H]2C=C[C@H](C1)C2 | C14H17N
